US07202069B2
Purification of (R)-2-octanol Dehydrogenase From Candida utilis
Candida utilis IFO 0988 strain was cultured in 3.6 L of medium B and the microbial cells were prepared by centrifugation. Obtained microbial cells were suspended in 100 mM potassium phosphate buffer (pH 8.0), 10% glycerol, 1 mM ethylenediaminetetraacetic acid 2Na (EDTA·2Na), 0.01% 2-mercaptoethanol, and 2 mM phenyl methane sulfonylfluoride (PMSF) and homogenized with bead beater (Biospec). After that, microbial cell debris were removed by centrifugation and cell-free extract was obtained. Protamine sulphate was added to this cell-free extract, and supernatant was obtained by centrifugation to remove nucleic acid. Ammonium sulfate was added to the supernatant, and the supernatant which was crude enzymatic solution was obtained in 30% saturation. The solution was dialyzed with standard buffer including 30% saturated ammonium and added to phenyl-sepharose HP (2.6 cm×10 cm) equilibrated with the same buffer. The gradient elution was conducted with 30% to 0% saturated ammonium sulfate. The fraction having selectivity of (R)-2-octanol among extracted fractions was recovered and concentrated by ultrafiltration. Composition of medium B used are followings:

reactant | ethylenediaminetetraacetic acid | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | 2-mercaptoethanol | SCCO | C2H6OS
reactant | phenyl methane sulfonylfluoride | 2 mM | C1(=CC=CC=C1)CS(=O)(=O)F | C7H7FO2S
reactant | sulphate | S(=O)(=O)([O-])[O-]
solvent | potassium phosphate | 100 mM, pH 8.0 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | glycerol | OCC(O)CO | C3H8O3
product | (R)-2-octanol | C[C@H](CCCCCC)O | C8H18O
